US05536830
7-PHENYLACETAMIDO-3-CHLORO-3-CEPHEM-4-CARBOXYLIC ACID
The procedure described in Example 4 was repeated using p-nitrobenzyl 7-phenylacetamido-3-chloro-3-cephem-4-carboxylate as the starting material. The corresponding acid was obtained in 40.2% yield. M.p. 142°-145° C. IR (KBr) cm-1 : 3260, 1755, 1635, 1515, 680. NMR (DMSO-δ6) δ: 3.2-4.2 (m, 4 H, S--CH2 & Ar--CH2), 5.2 (d, 1 HS--CH), 5.7 (q, 1 H, N--CH), 7.3 (s, 5 H, Ar--H), 9.1 (d, 1 H, NH).

reactant | p-nitrobenzyl 7-phenylacetamido-3-chloro-3-cephem-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H18ClN3O6S
reactant | KBr | [K+].[Br-]
product | 7-PHENYLACETAMIDO-3-CHLORO-3-CEPHEM-4-CARBOXYLIC ACID | 40.2% yield | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O | C15H13ClN2O4S
